US07098333B2
2-Chloro-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidin (Example 2)
A solution of 2,4-dichloro-1H-pyrrolo[2,3-d]pyrimidine (4.1 g, 21.8 mmol) in DMF (20 mL) was treated with PdCl2(PPh3)2 (772 mg, 0.17 mmol) and 2-(tributylstannyl)-furan (6.9 mL, 21.8 mmol), stirred at room temperature for 16 h, diluted with diethyl ether and filtered to give the title compound (2.94 g, 61%) as a pale orange solid.

reactant | 2,4-dichloro-1H-pyrrolo[2,3-d]pyrimidine | 21.8 mmol, 4.1 g | ClC1=NC(=C2C(N1)=NC=C2)Cl | C6H3Cl2N3
reactant | 2-(tributylstannyl)-furan | 21.8 mmol, 6.9 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | PdCl2(PPh3)2 | 0.17 mmol, 772 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidin | 2.94 g, 61% | ClC1=NC(=C2C(N1)=NC=C2)C=2OC=CC2 | C10H6ClN3O
